US06576643B2
a) 2-(tert-Butoxycarbonylamino)-6-picoline
A solution of 2-amino-6-picoline (21.63 g, 200 mmole) and di-tert-butyl dicarbonate (52.38 g, 240 mmole) in CH2Cl2 (200 mL) was concentrated on the rotavap at 50° C., and the resulting residue was allowed to rotate on the rotavap at 50° C. under vacuum. After 21.5 hr, the reaction was diluted with hexanes (400 mL) and filtered through silica gel (hexanes followed by 20% EtOAc/hexanes). Concentration left the title compound (41.84 g, quantitative) as a light yellow oil which gradually solidified on standing: 1H NMR (250 MHz, CDCl3) δ7.71 (d, J=8.3 Hz, 1 H), 7.40-7.65 (m, 2 H), 6.80 (d, J=7.5 Hz, 1 H), 2.43 (s, 3 H), 1.50 (s, 9 H); MS (ES) m/e 153 (M+H-C4H8)+.

reactant | 2-amino-6-picoline | 200 mmole, 21.63 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | di-tert-butyl dicarbonate | 240 mmole, 52.38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(tert-Butoxycarbonylamino)-6-picoline | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)C | C11H16N2O2
